US08349886B2
N-methoxy-N-methyl-2-[1-methyl-5-(methylsulfanyl)-1H-pyrazol-3-yl]-3-(tetrahydro-2H-pyran-4-yl)propanamide
To a mixture of 2-[1-methyl-5-(methylsulfanyl)-1H-pyrazol-3-yl]-3-(tetrahydro-2H-pyran-4-yl)propanoic acid (1.09 g), N-methoxymethanamine hydrochloride (0.75 g), 1H-1,2,3-benzotriazol-1-ol (0.70 g), triethylamine (1.1 mL) and N,N-dimethylformamide (10 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.88 g) at 0° C., and the mixture was stirred overnight at room temperature. To the reaction mixture was added 10% aqueous citric acid solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with saturated brine, saturated aqueous sodium hydrogen carbonate and saturated brine, dried (MgSO1), and concentrated. The obtained residue was subjected to silica gel column chromatography to give the title compound (0.80 g, yield 63%) as a colorless oil from the fraction eluted with ethyl acetate-hexane (4:1, volume ratio). MS: 328 (MH+).

reactant | 2-[1-methyl-5-(methylsulfanyl)-1H-pyrazol-3-yl]-3-(tetrahydro-2H-pyran-4-yl)propanoic acid | 1.09 g | CN1N=C(C=C1SC)C(C(=O)O)CC1CCOCC1 | C13H20N2O3S
reactant | N-methoxymethanamine hydrochloride | 0.75 g | Cl.CONC
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.70 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.88 g | Cl.CN(CCCN=C=NCC)C
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 1.1 mL | C(C)N(CC)CC | C6H15N
product | N-methoxy-N-methyl-2-[1-methyl-5-(methylsulfanyl)-1H-pyrazol-3-yl]-3-(tetrahydro-2H-pyran-4-yl)propanamide | 0.80 g, yield 63% | CON(C(C(CC1CCOCC1)C1=NN(C(=C1)SC)C)=O)C | C15H25N3O3S
